US07253196B2
Ethyl 1-bromocyclopentanecarboxylate
DMF (a few drops) was added to a mixture of 1-bromocyclopentanecarboxylic acid (23.9 g, 124 mmol) and oxalyl chloride (11.6 mL, 130 mmol) in 250 mL of CH2Cl2. The mixture was stirred at ambient temperature for 2 h. After removing the low-boiling solvents in vacuo, ethanol (50 mL) was added to the residue followed by the addition of N,N-diisopropylethylamine (22.7 mL, 130 mmol). The mixture was stirred at ambient temperature for 20 min. After removing the low-boiling solvents in vacuo, the residue was partitioned between diethyl ether and water. The organic portion was washed with water and brine, and conc. in vacuo. The crude product was filtered through a plug of silica gel using 0 to 10% EtOAc in hexanes as the eluant. The title compound was obtained as a pale oil.

reactant | 1-bromocyclopentanecarboxylic acid | 124 mmol, 23.9 g | BrC1(CCCC1)C(=O)O | C6H9BrO2
reactant | oxalyl chloride | 130 mmol, 11.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 130 mmol, 22.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 1-bromocyclopentanecarboxylate | BrC1(CCCC1)C(=O)OCC | C8H13BrO2
